US07405300B2
A solution of 2-chloro-1-pyridin-3-yl-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde (46 mg, 0.179 mmol) in 1,4-dioxane (4 mL) is treated with piperazine-1-carboxylic acid tert-butyl ester (157 mg, 0.843 mmol) and the resulting yellow solution is heated-to 95° C. under a reflux condenser for 29 hours. The reaction mixture is evaporated to give a red oil. The residue is purified by flash chromatography on a 5-gram silica gel cartridge by elution with dichloromethane:ethyl acetate (3:1, increasing to 2:1 to 1:1). Fractions containing the product are combined and the solvent evaporated to give 62 mg of 4-(3-formyl-1-pyridin-3-yl-1H-pyrrolo[2,3-b]pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester as a orange waxy solid (85% yield). MS: m/e 408 (M+H), 430 (M+Na). 1H NMR (300 MHz, CDCl3): 10.29 (1H, s), 8.78 (1H, d), 8.74 (1H, dd), 8.50 (1H, d), 8.20 (1H, dd), 7.94 (1H, dm), 7.59 (1H, dd), 7.22 (1H, dd), 3.39-3.28 (8H, m), 1.46 (9H, s).

reactant | 2-chloro-1-pyridin-3-yl-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde | 0.179 mmol, 46 mg | ClC1=C(C=2C(=NC=CC2)N1C=1C=NC=CC1)C=O | C13H8ClN3O
reactant | piperazine-1-carboxylic acid tert-butyl ester | 0.843 mmol, 157 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 4-(3-formyl-1-pyridin-3-yl-1H-pyrrolo[2,3-b]pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 62 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=2C(=NC=CC2)N1C=1C=NC=CC1)C=O | C22H25N5O3
